US05041448
A mixture of 1.4 parts of 2H-3,1-benzoxazine-2,4-(1H)-dione, 3.7 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-9-[(4-fluorophenyl)methyl]-9H-purin-8-amine and 45 parts of N,N-dimethylformamide was stirred for 4 hours at 70° C. After cooling, the reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in ethanol. The salt was filtered off and dried, yielding 4.3 parts (50%) of 2-amino-N-[2-[4-[[9-[(4-fluorophenyl)methyl]-9H-purin-8-yl]amino]-1-piperidinyl]ethyl]benzamide (E)-2-butenedioate(2:5): mp. 164° C. (compound 178).

reactant | 2H-3,1-benzoxazine-2,4-(1H)-dione | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-9-[(4-fluorophenyl)methyl]-9H-purin-8-amine | NCCN1CCC(CC1)NC=1N(C2=NC=NC=C2N1)CC1=CC=C(C=C1)F | C19H24FN7
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
product | 2-amino-N-[2-[4-[[9-[(4-fluorophenyl)methyl]-9H-purin-8-yl]amino]-1-piperidinyl]ethyl]benzamide (E)-2-butenedioate | 50% | C(\C=C\C(=O)O)(=O)O.NC1=C(C(=O)NCCN2CCC(CC2)NC=2N(C3=NC=NC=C3N2)CC2=CC=C(C=C2)F)C=CC=C1 | InChI=1S/C26H29FN8O.C4H4O4/c27-19-7-5-18(6-8-19)16-35-24-23(15-29-17-31-24)33-26(35)32-20-9-12-34(13-10-20)14-11-30-25(36)21-3-1-2-4-22(21)28;5-3(6)1-2-4(7)8/h1-8,15,17,20H,9-14,16,28H2,(H,30,36)(H,32,33);1-2H,(H,5,6)(H,7,8)/b;2-1+
